US06080773
To a solution of 0.75 g of ethyl 2-[2-(1,2-benzisoxazol-3-yl)-phenyl]-2-methyl-4-pentenoate in 10 ml of 2-methoxyethanol was added 5 ml of 10M potassium hydroxide solution. The solution was refluxed overnight then cooled to room temperature and poured onto ice. This aqueous solution was acidified with 5M hydrochloric acid and extracted with three 100 ml portions of ether. The extracts were evaporated and azeotroped with toluene. Flash chromatography of the residue, eluting with 0 to 10% methanol in methylene chloride, afforded 0.52 g of 2-[2-(1,2-benzisoxazol-3-yl)-phenyl]-2-methyl-4-pentenoic acid as a gum, 1H NMR (400 MHz; CDCl3) δH 1.52 (Me).

reactant | ethyl 2-[2-(1,2-benzisoxazol-3-yl)-phenyl]-2-methyl-4-pentenoate | 0.75 g | O1N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)C(C(=O)OCC)(CC=C)C | C21H21NO3
reactant | potassium hydroxide | 10M, 5 ml | [OH-].[K+]
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
product | 2-[2-(1,2-benzisoxazol-3-yl)-phenyl]-2-methyl-4-pentenoic acid | 0.52 g | O1N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)C(C(=O)O)(CC=C)C | C19H17NO3
